US09421205B2
(h) tert-Butyl 4-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I122)
A solution of tert-butyl 4-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I121) (81.5 mg, 0.137 mmol) in DMF (10 mL) was added to a solution of 10% Pd/C (170 mg) in DMF (7 mL). The reaction was stirred at room temperature for 24 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite, washing with EtOAc (100 mL). The solvent was removed in vacuo to afford an oil which was purified on by column chromatography on silica gel (0-40% EtOAc in petroleum benzine 40-60° C.) to yield the title compound (I122) (61.4 mg, 75%) as a viscous oil; 1H NMR (400 MHz, CDCl3) δ 8.51 (s, 1H), 8.46 (dd, J=4.8, 1.7 Hz, 1H), 7.56-7.50 (m, 3H), 7.49 (s, 1H), 7.19-7.14 (m, 2H), 7.12 (dd, J=7.7, 4.8 Hz, 1H), 4.23 (bs, 2H), 3.72 (s, 2H), 3.70 (s, 3H), 3.40-3.33 (m, 2H), 3.32-3.23 (m, 2H), 2.80 (t, J=12.1 Hz, 2H), 2.62 (tt, J=12.1, 3.5 Hz, 1H), 1.81 (d, J=12.9 Hz, 2H), 1.65-1.55 (m, 2H), 1.48 (s, 9H). LCMS Method C: rt 6.01 min; m/z 622 [M+Na]+, 600 [M+H]+, 544 [M-tButyl+2H]+.

reactant | tert-butyl 4-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.137 mmol, 81.5 mg | COC(CC=1C(=NC=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 61.4 mg, 75% | COC(CC=1C(=NC=CC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H36F3N5O4
